US05070089
Methyl 4-(2-hydroxy-3-methoxybenzyl)-1-piperazinecarbodithioate (Com. No. 18)
In 10 ml of ethanol was dissolved 0.86 g of 35% formalin. To the solution was dropwise added under chilling with ice a solution of 2.35 g of methyl 1-piperazinecarbodithioate in 5 ml of ethanol. The mixture was then stirred for 30 min. at room temperature. The mixture was refluxed overnight under heating after addition of a solution of 1.24 g of 2-methoxyphenol in 5 ml of ethanol under chilling with ice. The reaction mixture was cooled to room temperature. Precipitated crystals were collected by filtration and washed with 5 ml of ethanol to give 1.44 g of the desired compound as a white powder, m.p. 151°-152° C. (decomp.), yield 45.9%.

reactant | formalin | 0.86 g | C=O | CH2O
reactant | methyl 1-piperazinecarbodithioate | 2.35 g | N1(CCNCC1)C(=S)SC | C6H12N2S2
reactant | 2-methoxyphenol | 1.24 g | COC1=C(C=CC=C1)O | C7H8O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | Methyl 4-(2-hydroxy-3-methoxybenzyl)-1-piperazinecarbodithioate | 1.44 g, yield 45.9% | OC1=C(CN2CCN(CC2)C(=S)SC)C=CC=C1OC | C14H20N2O2S2
